US05364871
A suspension of 5-acetyl-3-pyridinecarboxylic acid methyl ester (5.0 g) in 28% ammonia solution (30 ml) was stirred at room temperature for 2 hours. The resulting precipitate was collected by filtration to afford 3-acetyl-5-carbamoylpyridine (3.38 g).

reactant | 5-acetyl-3-pyridinecarboxylic acid methyl ester | 5.0 g | COC(=O)C=1C=NC=C(C1)C(C)=O | C9H9NO3
reactant | ammonia | 30 ml | N | H3N
product | 3-acetyl-5-carbamoylpyridine | 3.38 g | C(C)(=O)C=1C=NC=C(C1)C(N)=O | C8H8N2O2
